US07514457B2
To a suspension of sodium hydride (75 mg, 1.9 mmol) in THF (5 ml) was added 4-tert-butyl-3,5-difluorophenol (290 mg, 1.6 mmol) at 0° C., followed by stirring for 30 minutes. Then, tert-butyl bromoacetate (370 mg, 1.9 mmol) was added and the mixture was refluxed at 90° C. for 1 hour. The reaction was quenched with saturated ammonium chloride aqueous solution and the product was extracted with EtOAc, washed with brine, dried over magnesium sulfate. Then, filtration, evaporation, and purification through silica gel column chromatography eluting with hexane/EtOAc (20:1 to 4:1) gave the tert-butyl(4-tert-butyl-3,5-difluorophenoxy)acetate (403 mg, 86%). The DCM (2.0 ml) solution of tert-butyl(4-tert-butyl-3,5-difluorophenoxy)acetate (400 mg, 1.34 mmol) and TFA (2.0 ml), was stirred for 1 hour at room temperature. Evaporation gave the residue which was triturated with Hexane to furnish the title compound as a white solid (253 mg, 77%). 1H NMR (300 MHz, CDCl3): δ 1.42 (9H, t, J=2.2 Hz), 4.63 (2H, s), 6.39 (2H, d, J=12.1 Hz). MS (ESI) m/z 243 (M−H)−.

reactant | sodium hydride | 1.9 mmol, 75 mg | [H-].[Na+]
reactant | 4-tert-butyl-3,5-difluorophenol | 1.6 mmol, 290 mg | C(C)(C)(C)C1=C(C=C(C=C1F)O)F | C10H12F2O
reactant | tert-butyl bromoacetate | 1.9 mmol, 370 mg | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | tert-butyl(4-tert-butyl-3,5-difluorophenoxy)acetate | 403 mg, 86% | C(C)(C)(C)OC(COC1=CC(=C(C(=C1)F)C(C)(C)C)F)=O | C16H22F2O3
